US04873251
(S)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A mixture of (S)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.65 g, 0.012 mole) and 1,1'-carbonyldiimidazole (1.96 g, 0.0121 mole) was stirred at room temperature in dry tetrahydrofuran (100 ml) for 2.5 hours with a stream of nitrogen bubbling through it. The reaction mixture was cooled in a dry ice/acetone bath, liquid ammonia (50 ml) was added, the mixture was allowed to warm to room temperature and was stirred overnight under nitrogen. The solvents were removed under reduced pressure and the resulting solid was partitioned between water (100 ml) and ethyl acetate (100 ml). The insoluble solid was collected by filtration (1.38 g). The layers were separated, the aqueous layer was extracted once with ethyl acetate and the combined organic layers were washed twice with water, twice with a 5% potassium hydroxide solution and twice again with water, dried over magnesium sulfate, treated with charcoal, filtered, and evaporated under reduced pressure to gibe 1.9 g of solid. The 3.28 g (91 % yield) of solids were combined and dissolved in hot methanol, filtered hot, cooled to room temperature and water was added to the cloud point. The resulting solid was collected by filtration, rinsed with water and dried under high vacuum at room temperature to give 2.50 g of title compound, mp. 202°-204° C.

reactant | (S)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.012 mole, 3.65 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)O)C | C15H12ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0121 mole, 1.96 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (S)-2-(4-Chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.28 g, 91 % yield | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)N)C | C15H13ClN4O
